US06482943B1
tert-Butyl δ-[(1,2-dihydro-1,2-dioxonaphth-4-yl)oxy]valerate (1)
A mixture of tert-butyl 5-bromovalerate (1 g, 4.2 mmol) and the silver salt of 2-hydroxy-1,4-naphthoquinone (0.8 g, 3.84 mmol) in benzene (10 mL), was stirred for 24 h at 50° C. The reaction mixture was filtered through celite and the solvent was removed in vacuo. The residue was purified by flash chromatography (5% methanol in chloroform) to give a yellow solid (384 mg, 30%). 1H NMR (CDCl3) 8.12 (d, J=7.7 Hz, 1H), 7.89 (d, J=7.7 Hz, 1H), 7.70 (t, J=6.1 Hz, 1H), 7.59 (t, J=6.4 Hz, 1H), 5.95 (s, 1H), 4.17 (t, J=5.9 Hz, 2H), 2.35 (t, J=7.2 Hz, 2H), 1.90-2.05 (m, 2H), 1.78-1.90 (m, 2H), 1.47 (s, 9H).

reactant | tert-butyl 5-bromovalerate | 4.2 mmol, 1 g | BrCCCCC(=O)OC(C)(C)C | C9H17BrO2
reactant | 2-hydroxy-1,4-naphthoquinone | 3.84 mmol, 0.8 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
catalyst | silver | [Ag] | Ag
product | tert-Butyl δ-[(1,2-dihydro-1,2-dioxonaphth-4-yl)oxy]valerate | 384 mg, 30% | O=C1C(C=C(C2=CC=CC=C12)OCCCCC(=O)OC(C)(C)C)=O | C19H22O5
